US08227468B2
[(8S,9S)-9-[(4-Fluorobenzoyl)amino]-2-[4-(oxetan-3-yl)piperazin-1-yl]-6,7,8,9-tetrahydro-5H-benzo[7]annulen-8-yl]N-methylcarbamate
Prepare the racemic carbamate using racemic-trans-4-fluoro-N-[8-hydroxy-2-[4-(oxetan-3-yl)piperazin-1-yl]-6,7,8,9-tetrahydro-5H-benzo[7]annulen-9-yl]benzamide by essentially following the procedure for Example 1, above. LC-ES/MS m/z 497 [M+H]+. Dissolve racemic-trans-9-[(4-fluorobenzoyl)amino]-2-[4-(oxetan-3-yl)piperazin-1-yl]-6,7,8,9-tetrahydro-5H-benzo[7]annulen-8-yl]N-methylcarbamate (1.03 g) in dichloromethane (8 mL) and methanol (3 mL). Separate the enantiomers in 300 μL portions by SFC on a CHIRALPAK® AD-H column (2.1×25 cm, 5 μm). Mobile phase: 30% isopropanol with 0.2% isopropylamine/carbon dioxide. Flow rate: 70 mL/min. Detection: 225 nm. Obtain the title compound as isomer 1 (333 mg, 99% ee) and the 8R, 9R enantiomer as isomer 2 (359 mg, 97.5% ee). Determine enantiomeric excess by SFC on a CHIRALPAK® AD-H (4.6×150 mm, 5 μm) column using 30% isopropanol with 0.2% isopropylamine/carbon dioxide. Flow rate: 5 mL/min. Detection: 225 nm. Isomer 1 (title compound) TR=1.76 min. Isomer 2 TR=2.30 min.

reactant | racemic carbamate | C(N)([O-])=O
reactant | racemic-trans-4-fluoro-N-[8-hydroxy-2-[4-(oxetan-3-yl)piperazin-1-yl]-6,7,8,9-tetrahydro-5H-benzo[7]annulen-9-yl]benzamide | FC1=CC=C(C(=O)N[C@H]2[C@@H](CCCC3=C2C=C(C=C3)N3CCN(CC3)C3COC3)O)C=C1 | C25H30FN3O3
reactant | N-methylcarbamate | 1.03 g | CNC([O-])=O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
product | [(8S,9S)-9-[(4-Fluorobenzoyl)amino]-2-[4-(oxetan-3-yl)piperazin-1-yl]-6,7,8,9-tetrahydro-5H-benzo[7]annulen-8-yl]N-methylcarbamate | FC1=CC=C(C(=O)N[C@@H]2[C@H](CCCC3=C2C=C(C=C3)N3CCN(CC3)C3COC3)OC(NC)=O)C=C1 | C27H33FN4O4
